US07504392B2
a) 3-Trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonyl chloride
A solution of 3-trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepine (see WO02/40471) (20 g, 80 mmol) in dichloromethane (50 mL) was added dropwise to a solution of chlorosulfonic acid (33 mL, 240 mmol) in more dichloromethane (200 mL) at 0° C. The resulting solution was stirred for 18 h without cooling then poured onto ice (250 g). The resulting organic layer was washed with brine (100 mL), dried (MgSO4), and evaporated to give the subtitle compound as a white solid (23 g).

reactant | 3-trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 80 mmol, 20 g | FC(C(=O)N1CCC2=C(CC1)C=CC=C2)(F)F | C12H12F3NO
reactant | chlorosulfonic acid | 240 mmol, 33 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-Trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonyl chloride | 23 g | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)Cl)(F)F | C12H11ClF3NO3S
